US08008307B2
Step c: (1S,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-(hydroxymethyl)cyclopentyl methanesulfonate
A suspension of (1S,3S,4S)-3-[(benzyloxy)methyl]-4-{[tert-butyl(dimethyl)silyl]-oxy}cyclopentyl methanesulfonate (690 mg, 0.0017 mol) and Palladium hydroxide, 20 wt. % Pd on carbon (160 mg, 0.00012 mol) in methanol (10 mL, 0.2 mol) was stirred under an atmosphere of hydrogen for 2 hours. The reaction was purged with nitrogen and filtered the mixture through celite with DCM. The filtrate was concentrated to obtain 350 mg (65%).

reactant | (1S,3S,4S)-3-[(benzyloxy)methyl]-4-{[tert-butyl(dimethyl)silyl]-oxy}cyclopentyl methanesulfonate | 0.0017 mol, 690 mg | CS(=O)(=O)O[C@H]1C[C@H]([C@H](C1)O[Si](C)(C)C(C)(C)C)COCC1=CC=CC=C1 | C20H34O5SSi
reactant | methanol | 0.2 mol, 10 mL | CO | CH4O
catalyst | Palladium hydroxide | [OH-].[Pd+2].[OH-]
catalyst | Pd on carbon | 0.00012 mol, 160 mg | [Pd] | Pd
product | (1S,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-(hydroxymethyl)cyclopentyl methanesulfonate | CS(=O)(=O)O[C@@H]1C[C@@H]([C@@H](C1)CO)O[Si](C)(C)C(C)(C)C | C13H28O5SSi
